US05726172
To a stirred solution of methyl 4-(1-indanoyloxy)-2-methoxy-benzoate (125 mg, 0.43 mmol) in THF:H2O (1 mL: 0.2 mL) was added LiOH.H2O (35.2 mg, 0.84 mmol). The reaction was heated to 45° C. over 12 h and then cooled to ambient temperature. The solvent was removed under reduced pressure. The crude solid was passed through a small plug of silca gel packed in 80:20 hexanes:EtOAc and eluted with 50:50 hexanes:EtOAc. The solvent was removed under reduced pressure to afford 4-(1-indanoyloxy)-2-methoxy-benzoic acid as a foam.

reactant | methyl 4-(1-indanoyloxy)-2-methoxy-benzoate | 0.43 mmol, 125 mg | C1(CCC2=CC=CC=C12)C(=O)OC1=CC(=C(C(=O)OC)C=C1)OC | C19H18O5
reactant | H2O | 1 mL | O | H2O
reactant | LiOH.H2O | 0.84 mmol, 35.2 mg | O[Li].O
solvent | THF | C1CCOC1 | C4H8O
product | 4-(1-indanoyloxy)-2-methoxy-benzoic acid | C1(CCC2=CC=CC=C12)C(=O)OC1=CC(=C(C(=O)O)C=C1)OC | C18H16O5
